* C:\Users\Marcel\Documents\4_Semester\Praktikum\Aktives Filter\Aktives Filter.asc
C1 N001 N003 10n
C2 N002 N001 10n
C3 0 N004 4n7
R1 N001 0 31k5
R2 N004 N001 8k04
R3 N002 N006 1k53
R4 0 N006 1k
R5 N006 N005 39k
XU1 N005 N004 V+ V- N002 LM741
V1 N003 0 ac 1
V2 V+ 0 15
V3 0 V- 15
.lib LM741.sub
.ac dec 100 100 10000
.backanno
.end
